US04772695
In a similar manner, N,N'-di-methylpiperazine is reacted with α-chloroethyl chloroformate (ACE-Cl) to give the intermediate N-α-chloroethoxycarbonyl N'-methyl piperazine, which is then dehydrohalogenated as in Example 21b to give N-(vinyloxycarbonyl)N'-methylpiperazine.

reactant | N,N'-di-methylpiperazine | CN1CCN(CC1)C | C6H14N2
reactant | α-chloroethyl chloroformate | ClC(=O)OC(C)Cl | C3H4Cl2O2
product | N-α-chloroethoxycarbonyl N'-methyl piperazine | ClC(C)OC(=O)N1CCN(CC1)C | C8H15ClN2O2
